US07592334B2
c) 4-Bromo-6-methoxy-[1,5]naphthyridine-3-carboxylic acid ethyl ester
A suspension of 6-methoxy-4-oxo-1,4-dihydro-[1,5]naphthyridine-3-carboxylic acid ethyl ester (74.57 g, 300 mmole) in dry DMF (260 mL) under argon was stirred efficiently* in a water bath (to maintain approximately RT—may need slight ice-cooling on a large scale). Phosphorus tribromide (30.0 mL, 316 mmole) was added dropwise over 15 min and stirring was continued for an additional 30 min. Water (1 L) was added, followed by saturated sodium carbonate solution to pH 7. The solid was collected by suction filtration, washed with water and dried under vacuum over phosphorus pentoxide to give the title compound (83.56 g, 90%).

reactant | 6-methoxy-4-oxo-1,4-dihydro-[1,5]naphthyridine-3-carboxylic acid ethyl ester | 300 mmole, 74.57 g | C(C)OC(=O)C1=CNC2=CC=C(N=C2C1=O)OC | C12H12N2O4
reactant | Phosphorus tribromide | 316 mmole, 30.0 mL | P(Br)(Br)Br | Br3P
reactant | Water | 1 L | O | H2O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | DMF | 260 mL | CN(C)C=O | C3H7NO
product | 4-Bromo-6-methoxy-[1,5]naphthyridine-3-carboxylic acid ethyl ester | 83.56 g, 90% | C(C)OC(=O)C=1C=NC2=CC=C(N=C2C1Br)OC | C12H11BrN2O3
